Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unable to be obtained due to mental status

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a history of
schizophrenia who resides at long-term care at ___, who
presents with weakness and confusion, and sent to the emergency
room after a chest x-ray was read as "free air beneath
diaphragm". History taken from chart review of ___.
Apparently he had been more tired and not eating, and found to
have a congested cough. He was only able to stand for short
periods without assistance, which is not his baseline.  To
evaluate for a pneumonia, a chest x-ray was performed, with a
finding of "a large amount of free air under the right diaphragm
raising concern for bowel perforation, and left lower lobe
pneumonia". His vital signs were stable. Out of concern for
perforation, he was sent to the emergency room. 

In our emergency room, TMax 100.2, HR 70, BP 126/70. Chest x-ray
was performed, read as:

Likely gas-filled colonic loop under the right hemidiaphragm. 
Consider left lateral decubitus view of the abdomen pelvis to
confirm. 

Decubitus x-ray therefore performed, which showed: 

Probable gas-filled bowel accounting for lucency in the right
hemiabdomen.  If there is further concern a noncontrast CT may 
be
performed to further assess.  

CT abdomen then performed:
 
1. No pneumoperitoneum. No free intra-abdominal fluid. 
2. Basilar consolidations in the left lower, upper and right
lower lobes, which may represent pneumonia versus aspiration or
atelectasis. 
3. Distended colon and rectum with significant stool burden. No
obvious bowel obstruction. 
4. Midline anterior diastasis with nonobstructing small bowel 
and
part of the bladder within. There are multiple small bladder
diverticula, one of which contains a nonobstructing stone. 
5. Abdominal aortic ectasia up to 2.9 cm immediately proximal to
the bifurcation. 
6. 1.4 cm hypodensity within the pancreatic head may represent
interdigitated fat versus a cystic structure. Recommend 
nonurgent
MRI evaluation, which may 
be obtained as an outpatient. 
7. Moderate cardiomegaly, partially imaged. 
  
Finally, a head CT was performed:
  
1. No intracranial hemorrhage. 
2. Multiple areas of hypodensity including the right
frontoparietal region, left parietal lobe, right insular cortex
bilateral cerebellar lobes are worrisome for chronic infarct 
with
resultant encephalomalacia, however these are new from the prior
study from ___ and an acute process cannot be completely
excluded. 
3. Areas of hypodensity in the left pons, midbrain, in the right
insular cortex may be chronic microangiopathic changes, however
an acute process cannot be completely excluded. 
4. No fractures. 
  
The patient was started on ceftriaxone and azithromycin, and
given 500 mL NS then admitted to medicine.

 
Past Medical History:
From chart review. 

1. Chronic schizophrenia s/p insulin shock therapy
2. Cervical arthritis with mild cord compression
3. Impaired cognition
4. Dizziness
5. Atrial fibrillation
6. Sick sinus syndrome s/p cardiac pacemaker placement
7. HTN
8. Vitamin B12 defiency
9. Chronic constipation
10. Inguinal hernia
 
Social History:
___
Family History:
per chart review, "cancer, DM, hypertension"
 
Physical Exam:
VITALS: Afebrile, BP 107-64, HR 49. RR 20, ___ 97 (see
eFlowsheet)
GENERAL: Alert, but not oriented, even to self, lying in bed
EYES: Anicteric, greenish discharge coming bilateral
ENT: Would not open mouth for exam. Crusted green material over
lips. Fetid breath.
CV: S1, S2, slow, irreg irreg, no murmurs. JVP visualized at 10
cmH2O, no lower extremity edema
RESP: Deep, wet cough, decreased breath sounds in the left base,
no crackles
GI: Mildly distended, but non-tender. No HSM, no hernia. +BS
GU: No suprapubic fullness or tenderness to palpation
MSK: Moving all his extremities independently
SKIN: No sacral screen breakdown, and no other rashes
NEURO: Unable to be formally tested. 
PSYCH: confused and not oriented.

Patient examined on day of discharge. Afebrile, with SBPs 
107-118/49-67. HR 50-56. RR ___, ___ on room air. On 
exam, he is oriented to himself only, but talkative, and 
laughing. Abdomen is soft and non-tender today with regular 
bowel sounds.
 
Pertinent Results:
LABORATORY RESULTS:

___ 09:32AM BLOOD WBC-6.3 RBC-2.87* Hgb-9.6* Hct-30.3* 
MCV-106* MCH-33.4* MCHC-31.7* RDW-13.4 RDWSD-51.4* Plt ___
___ 06:26AM BLOOD WBC-5.1 RBC-2.71* Hgb-9.0* Hct-28.3* 
MCV-104* MCH-33.2* MCHC-31.8* RDW-13.2 RDWSD-50.4* Plt ___
___ 08:44PM BLOOD Glucose-121* UreaN-40* Creat-1.3* Na-142 
K-4.2 Cl-109* HCO3-21* AnGap-12
___ 06:26AM BLOOD Glucose-90 UreaN-26* Creat-1.0 Na-145 
K-3.8 Cl-110* HCO3-23 AnGap-12
___ 08:44PM BLOOD ALT-10 AST-17 CK(CPK)-129 AlkPhos-62 
TotBili-0.4
___ 08:44PM BLOOD CK-MB-2 cTropnT-0.02* proBNP-4250*
___ 02:50AM BLOOD CK-MB-2 cTropnT-0.02*
___ 08:44PM BLOOD Albumin-3.3*
___ 08:44PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 08:59PM BLOOD Lactate-1.9
___ 03:00AM BLOOD Lactate-1.4

Imaging studies per HPI.

Blood cultures x2 pending
Urine culture pending.
 
Brief Hospital Course:
Mr. ___ was admitted, placed on ceftriaxone and 
azithromycin for a presumed pneumonia, and starting on an 
aggressive bowel regimen. He had a number of large bowel 
movements, and by HD#1 had improved dramatically -- alert, 
though oriented only to himself, and in good spirits, with a 
dramatically better abdominal exam. With > 24 hours since a last 
fever, he was transitioned to PO antibiotics, and can finish his 
course back at his facility.

- levofloxacin 750 mg x 3 additional days
- switched iron to every other day to minimize constipation
- Miralax as needed if no BM > 1 day

Other problems addressed this hospitalization:

1. ___. Likely pre-renal. Resolved with 1 liter of LR.

> 30 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simethicone 80 mg PO QID:PRN gas 
2. Dipyridamole-Aspirin 1 CAP PO BID 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Calcium Carbonate 500 mg PO QHS 
6. Vitamin D 1000 UNIT PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. LOPERamide 2 mg PO QID:PRN diarrhea 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY  
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
3.  Levofloxacin 750 mg PO DAILY  
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Calcium Carbonate 500 mg PO QHS  
7.  Dipyridamole-Aspirin 1 CAP PO BID  
8.  LOPERamide 2 mg PO QID:PRN diarrhea  
9.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
10.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
11.  Simethicone 80 mg PO QID:PRN gas  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Constipation
Community-acquired pneumonia
 
Discharge Condition:
a
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted to the hospital after a x-ray showed concern 
for bowel perforation. We did some additional imaging studies 
which showed that you actually were incredibly constipated, with 
a possible small pneumonia. We started antibiotics, and gave you 
laxatives, and by the second day you had completely improved. 
You will continue a bowel regimen at your facility, and finish 
four more days of oral antibiotics.
 
Followup Instructions:
___